US07989438B2
Step 3: Methyl 1-{2-[4-(aminosulfonyl)piperazin-1-yl]ethyl}-14′-cyclohexylspiro[azetidine-3,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate
Cat. TsOH monohydrate was added to a suspension of methyl 14′-cyclohexyl-2,2-dimethylspiro[1,3-dioxane-5,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate in MeOH/THF 1:2 (0.03 M), and the solution was stirred at RT for 3 h. Filtration on a pad of neutral alumina using EtOAc as eluent afforded after evaporation of the solvent in vacuo methyl 14-cyclohexyl-7,7-bis(hydroxymethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (quant). This material was dissolved in dry MeCN (0.2M) and DIPEA (4.0 eq) and trifluoromethane sulfonic anhydride (3.5 eq) was added at 0° C. The mixture was stirred at 0° C. for 15 min, then more DIPEA (4 eq) was added at RT. Tert-butyl 4-(2-aminoethyl)piperazine-1-carboxylate (2 eq) was added, and the mixture was stirred at 70° C. for 1 h. After removal of the solvent in vacuo EtOAc was added, the solution was washed with H2O and brine, dried over Na2SO4 and the solvent was removed in vacuo. The crude methyl 1-{2-[4-(tert-butoxycarbonyl)piperazin-1-yl]ethyl}-14′-cyclohexylspiro[azetidine-3,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate was taken in DCM/TFA 3:1 (0.13M) and stirred at RT for 2 h. The mixture was evaporated to dryness and the residual material was dissolved in EtOAc. The solution was washed with sat. aq. NaHCO3 and brine. The organic phase was dried over Na2SO4 and the solvent evaporated in vacuo. The residue was dissolved in dry dioxane (0.06M) and sulfamide (5 eq) was added. The mixture was stirred at reflux for 3 h, then overnight at RT. The residue obtained after evaporation was purified by FC (EtOAc/MeOH, 9:1) to afford the title compound in 40% yield. (ES+) m/z 622 (M+H)+.

reactant | methyl 14′-cyclohexyl-2,2-dimethylspiro[1,3-dioxane-5,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC3(COC4=C(C21)C=CC=C4)COC(OC3)(C)C)C(=O)OC | C30H35NO5
reactant | DIPEA | 4.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethane sulfonic anhydride | 3.5 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | DIPEA | 4 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | Tert-butyl 4-(2-aminoethyl)piperazine-1-carboxylate | 2 eq | NCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H23N3O2
reactant | sulfamide | 5 eq | S(=O)(=O)(N)N | H4N2O2S
solvent | MeOH THF | 0.03 M | CO.C1CCOC1
product | Methyl 1-{2-[4-(aminosulfonyl)piperazin-1-yl]ethyl}-14′-cyclohexylspiro[azetidine-3,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate | 40% yield | NS(=O)(=O)N1CCN(CC1)CCN1CC2(COC3=C(C=4N(C2)C=2C=C(C=CC2C4C4CCCCC4)C(=O)OC)C=CC=C3)C1 | C33H43N5O5S
